US05981542
30.a. 5-chloro-2-chloroacetyl-4-methoxyaniline
This product is obtained according to Sugasawa T., Toyoda T., Adachi M., Sasakura K., J. Am. Chein. Soc., 100 (1978), p. 4842-4852). A molar solution of boron trichloride in hexane (164 ml, 164 mmol), chloroacetonitrile (11.4 ml, 180 mmol), and a molar solution of diethylaluminum chloride in hexane (164 ml, 164 mmol) is added drop-wise in succession to a solution of 3-chloro-4-methoxy-aniline (23.6 g, 150 mmol) in an inert atmosphere at 0° C. The reaction medium is heated to reflux for 1 h then cooled to 0° C., hydrolized by adding carefully 2N hydrochloric acid (90 ml), then maintained at reflux for 1 h. It is chilled again and a concentrated solution of sodium bicarbonate is added to pH 14. The solution is extracted with ethyl acetate, the organic phase is washed in water, then in salt water. Dry it on magnesuim sulfate, filter and evaporate under reduced pressure. The residue is recovered in isopentane, decanted, then recover what is insoluble in the minimum amount of isopropyl ether, and isopentane is added to precipitate the product. Filter and dry under vacuum. 17.26 g of a brown solid are obtained.

reactant | boron trichloride | B(Cl)(Cl)Cl | BCl3
reactant | hexane | 164 mmol, 164 ml | CCCCCC | C6H14
reactant | chloroacetonitrile | 180 mmol, 11.4 ml | ClCC#N | C2H2ClN
reactant | diethylaluminum chloride | [Cl-].C(C)[Al+]CC
reactant | hexane | 164 mmol, 164 ml | CCCCCC | C6H14
reactant | 3-chloro-4-methoxy-aniline | 150 mmol, 23.6 g | ClC=1C=C(N)C=CC1OC | C7H8ClNO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | hydrochloric acid | 2N, 90 ml | Cl | ClH
product | 5-chloro-2-chloroacetyl-4-methoxyaniline | 17.26 g | ClC=1C(=CC=C(NC(CCl)=O)C1)OC | C9H9Cl2NO2
